US08110579B2
According to the method described in example 1.6, starting from 5.4 g (15.26 mmol) of methyl 6-(4-chloro-3-hydroxyphenyl)-5-(2-methylphenyl)pyridine-2-carboxylate, 9.95 g (30.53 mmol) of caesium carbonate and 2.9 g (18.3 mmol) of 3-chloro-N,N-dimethylpropan-1-amine hydrochloride in 60 mL of DMF, we obtain 6 g of methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-methylphenyl)pyridine-2-carboxylate in the form of oil.

reactant | methyl 6-(4-chloro-3-hydroxyphenyl)-5-(2-methylphenyl)pyridine-2-carboxylate | 15.26 mmol, 5.4 g | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OC)C1=C(C=CC=C1)C)O | C20H16ClNO3
reactant | caesium carbonate | 30.53 mmol, 9.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloro-N,N-dimethylpropan-1-amine hydrochloride | 18.3 mmol, 2.9 g | Cl.ClCCCN(C)C
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-methylphenyl)pyridine-2-carboxylate | 6 g, Yield=90% | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OC)C1=C(C=CC=C1)C)OCCCN(C)C | C25H27ClN2O3
